US08859768B2
To a solution of 4-iodo-5-methylpyridin-2-amine (90 g, 380 mmol) in DCM (3800 mL) were added DIEA (192 mL, 930 mmol) and methyl carbonochloridate (58.8 mL, 760 mmol) at 0° C. The reaction mixture was allowed to stir at 0° C. for 1 h and was then diluted with aqueous saturated NH4Cl. The organic solvent was separated and the aqueous solution was extracted with DCM. The organic solutions were combined, washed with brine and concentrated to give dimethyl(4-iodo-5-methylpyridin-2-yl)imidodicarbonate (110 g, 80%) which was used in the next step without purification.

reactant | 4-iodo-5-methylpyridin-2-amine | 380 mmol, 90 g | IC1=CC(=NC=C1C)N | C6H7IN2
reactant | DIEA | 930 mmol, 192 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl carbonochloridate | 760 mmol, 58.8 mL | C(OC)(=O)Cl | C2H3ClO2
solvent | DCM | 3800 mL | C(Cl)Cl | CH2Cl2
solvent | NH4Cl | [NH4+].[Cl-]
product | dimethyl(4-iodo-5-methylpyridin-2-yl)imidodicarbonate | 110 g, 80% | COC(=O)N(C(=O)OC)C1=NC=C(C(=C1)I)C | C10H11IN2O4
